US07247625B2
To a stirred solution of 2-amino-6-fluorobenzoic acid (15.34 g, 98.90 mmol) in THF (330 mL) at 0° C. was slowly added ethyl magnesium bromide (650 mL, 650.0 mmol) and allowed to warm to room temperature. After 3 days, the reaction was quenched with chilled ammonium chloride solution (sat.) and extracted several times with ethyl acetate. The combined organic layers were dried over magnesium sulfate and concentrated. The crude material was taken up in THF (300 mL) and CDI (14.97 g, 92.30 mmol) was added. The reaction was stirred overnight at room temperature and partitioned between ammonium chloride solution (sat.) and ethyl acetate. The organic layer was washed with 1N HCl and dried over magnesium sulfate. Trituration with ether gave 4,4-diethyl-5-fluoro-1,4-dihydro-2H-3,1-benzoxazin-2-one as an off-white solid (9.57 g, 43%). 1H NMR (DMSO-d6): δ 10.33 (s, 1H), 7.31 (m, 1H), 6.86 (m, 1H), 6.73 (d, J=8.0 Hz, 1H), 2.08 (m, 2H), 1.90 (m, 2H), 0.80 (t, J=7.2 Hz, 6H); MS (ESI) m/z 224 ([M+H]+); MS (ESI) m/z 222 ([M−H]−); Anal. calcd for C12H14FNO2: C, 64.56; H, 6.32; N, 6.27. Found: C, 64.64; H, 6.27 N, 6.16.

reactant | 2-amino-6-fluorobenzoic acid | 98.90 mmol, 15.34 g | NC1=C(C(=O)O)C(=CC=C1)F | C7H6FNO2
reactant | ethyl magnesium bromide | 650.0 mmol, 650 mL | C(C)[Mg]Br
reactant | CDI | 92.30 mmol, 14.97 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | THF | 330 mL | C1CCOC1 | C4H8O
product | 4,4-diethyl-5-fluoro-1,4-dihydro-2H-3,1-benzoxazin-2-one | 9.57 g, 43% | C(C)C1(OC(NC2=C1C(=CC=C2)F)=O)CC | C12H14FNO2
